US07078425B2
A mixture of 2-benzenesulfonylamino-3-(1-benzenesulfonyl-7-methoxy-1H-indol-4-yl)-N-(4-phenyl-butyl)-propionamide (1.0 g, 1.6 mmol) and 2.5 M KOH (2.0 mL, 5.0 mmol) is refluxed in MeOH (9 mL) for 22 h. The resulting solution is poured into a saturated NH4Cl solution and extracted twice with EtOAc. The organics are dried (MgSO4) and concentrated to provide 2-benzenesulfonylamino-3-(7-methoxy-1H-indol-4-yl)-N-(4-phenyl-butyl)-propionamide as an oil which is used as is without further purification.

reactant | 2-benzenesulfonylamino-3-(1-benzenesulfonyl-7-methoxy-1H-indol-4-yl)-N-(4-phenyl-butyl)-propionamide | 1.6 mmol, 1.0 g | C1(=CC=CC=C1)S(=O)(=O)NC(C(=O)NCCCCC1=CC=CC=C1)CC1=C2C=CN(C2=C(C=C1)OC)S(=O)(=O)C1=CC=CC=C1 | C34H35N3O6S2
reactant | KOH | 5.0 mmol, 2.5 M, 2.0 mL | [OH-].[K+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | MeOH | 9 mL | CO | CH4O
product | 2-benzenesulfonylamino-3-(7-methoxy-1H-indol-4-yl)-N-(4-phenyl-butyl)-propionamide | C1(=CC=CC=C1)S(=O)(=O)NC(C(=O)NCCCCC1=CC=CC=C1)CC1=C2C=CNC2=C(C=C1)OC | C28H31N3O4S
